US08492414B2
5-(4-Methoxyphenyl)-[1,3,4]oxathiazol-2-one: (II-b)
To a solution of 4-methoxybenzamide (0.30 g, 1.10 mmol) in toluene (10 ml) was added chlorocarbonylsulfenyl chloride (0.80 ml, 9.92 mmol). The resulting reaction mixture was refluxed at 80° C. for 3 h. After the completion of the reaction (TLC monitoring), the mixture was concentrated, added diethyl ether and washed with twice with water, twice with 5% NaHCO3, again with water, and was dried (Na2SO4), concentrated under vacuum to give the product (crude yield 0.475 g) that was carried forward to the next step without further purification.

reactant | 4-methoxybenzamide | 1.10 mmol, 0.30 g | COC1=CC=C(C(=O)N)C=C1 | C8H9NO2
reactant | chlorocarbonylsulfenyl chloride | 9.92 mmol, 0.80 ml | ClC(=O)SCl | CCl2OS
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-Methoxyphenyl)-[1,3,4]oxathiazol-2-one | COC1=CC=C(C=C1)C1=NSC(O1)=O | C9H7NO3S
